US04053601
A well stirred mixture of ethyl 3-(4-chloro-2-hydroxybenzoyl)propionate (9.6 g, 0.037 mole), potassium carbonate (5.96 g, 0.043 mole) epibromohydrin (14.4 ml, 0.173 mole) and dry butan-2-one (250 ml) was heated under reflux for 28 hours. Evaporation of the filtered solution under reduced pressure and purification of the residue by column chromatography gave ethyl 3-[4-chloro-2-(2,3-epoxypropoxy)benzoyl]-propionate as an oil (10.0 g, 86%).

reactant | ethyl 3-(4-chloro-2-hydroxybenzoyl)propionate | 0.037 mole, 9.6 g | ClC1=CC(=C(C(=O)CCC(=O)OCC)C=C1)O | C12H13ClO4
reactant | potassium carbonate | 0.043 mole, 14.4 ml, 5.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | butan-2-one | 250 ml | CC(CC)=O | C4H8O
product | ethyl 3-[4-chloro-2-(2,3-epoxypropoxy)benzoyl]-propionate | 10.0 g, 86% | ClC1=CC(=C(C(=O)CCC(=O)OCC)C=C1)OCC1CO1 | C15H17ClO5
